US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid 4-fluoro-benzylamide (551-9):
the title compound (8 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (75 mg, 0.23 mmol), 4-fluorobenzylamine (29 μL, 0.25 mmol) and PS-NMM (0.22 g, 0.45 mmol) in 4 mL of chloroform. MS (m/z, ES+): 418.3 (M+1, 100%). Yield=9%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.23 mmol, 75 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | 4-fluorobenzylamine | 0.25 mmol, 29 μL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | NMM | 0.45 mmol, 0.22 g | CN1CCOCC1 | C5H11NO
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid 4-fluoro-benzylamide | 8 mg, Yield=9% | FC1=CC=C(CNS(=O)(=O)C2=CC3=C(N=C(S3)C=3C(=NNC3N)C)C=C2)C=C1 | C18H16FN5O2S2
